US03931167
In a manner similar to that described in Example 1D, treat 6β,7β-dimethanesulfonyloxy-1,4-androstadiene-3,17-dione with sodium azide in dimethylformamide. Isolate and purify the resultant product in a manner similar to that described to obtain 6-azido-1,4,6-androstatriene-3,17-dione.

reactant | 6β,7β-dimethanesulfonyloxy-1,4-androstadiene-3,17-dione | CS(=O)(=O)O[C@@H]1[C@@H]([C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(C=CC(C=C12)=O)C)=O)OS(=O)(=O)C | C21H28O8S2
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 6-azido-1,4,6-androstatriene-3,17-dione | N(=[N+]=[N-])C1=C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(C=CC(C=C12)=O)C)=O | C19H21N3O2
